US07067534B1
N-[3-(1-{[1-(4-FLUOROPHENYL)-1H-INDOL-4-YL]METHYL}-4-PIPERIDINYL)PHENYL]-2-METHYLPROPANAMIDE:
Prepared by Procedure C and Scheme Q1, with CuBr in place of Cu, using 1-fluoro-4-iodobenzene and N-{3-[1-(1H-indol-4-ylmethyl)-4-piperidinyl]phenyl}-2-methylpropanamide: 1H NMR (400 MHz, CDCl3) δ 7.66–6.92 (m, 12H), 6.65 (d, 1H, J=3.2 Hz), 3.69 (s, 2H), 3.15–3.02 (m, 2H), 2.58–2.40 (m, 2H), 2.20–2.04 (m, 2H), 1.94–1.76 (m, 4H), 1.25 (d, 6H, J=6.8 Hz); ESMS m/e: 470.6 (M+H)+.

reactant | 1-fluoro-4-iodobenzene | FC1=CC=C(C=C1)I | C6H4FI
reactant | N-{3-[1-(1H-indol-4-ylmethyl)-4-piperidinyl]phenyl}-2-methylpropanamide | N1C=CC2=C(C=CC=C12)CN1CCC(CC1)C=1C=C(C=CC1)NC(C(C)C)=O | C24H29N3O
product | N-[3-(1-{[1-(4-FLUOROPHENYL)-1H-INDOL-4-YL]METHYL}-4-PIPERIDINYL)PHENYL]-2-METHYLPROPANAMIDE | FC1=CC=C(C=C1)N1C=CC2=C(C=CC=C12)CN1CCC(CC1)C=1C=C(C=CC1)NC(C(C)C)=O | C30H32FN3O
